M1 (net029 VB4 VSS VSS) nmos4
M3 (net030 VB4 VSS VSS) nmos4
M4 (VOUT1 VB1 net029 VSS) nmos4
M5 (VOUT2 VB1 net030 VSS) nmos4
M12 (net19 VB5 net09 VSS) nmos4
M0 (net028 VIN2 net19 VSS) nmos4
M11 (net09 VOUT2 VSS VSS) nmos4
M10 (net09 VOUT1 VSS VSS) nmos4
M2 (net027 VIN1 net19 VSS) nmos4
M6 (VOUT1 VB2 net027 VDD) pmos4
M7 (VOUT2 VB2 net028 VDD) pmos4
M8 (net027 VB3 VDD VDD) pmos4
M9 (net028 VB3 VDD VDD) pmos4